US06403610B1
33.4 cm3 of triethylamineborane complex were added with stirring, at a temperature in the region of 20° C., to a solution of 52.6 g of (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)-3-vinylpiperidine in 500 cm3 of toluene and then the mixture was heated for 18 hours at a temperature in the region of 110° C. After having concentrated the reaction mixture under reduced pressure (5 kPa) at a temperature in the region of 45° C., the residue obtained was taken up in 500 cm3 of tetrahydrofuran. The solution which resulted therefrom had approximately 63 cm3 of water added over 20 minutes and then 47.5 g of sodium perborate were added portionwise over approximately 1 hour. The mixture was stirred for 4 hours at a temperature in the region of 20° C. and then 300 cm3 of a saturated ammonium chloride solution were added. The organic solution was separated by settling, dried over magnesium sulfate, and concentrated under the same conditions as above. The residue obtained was purified by chromatography on a column of silica gel (particle size 20-45 μm; diameter 9 cm; silica volume 2500 cm3), elution was carried out first with a dichloromethane/methanol (97.5/2.5 by volume) mixture, and 1-liter fractions were collected. Fractions 1 to 17 were separated and then elution was carried out with a dichloromethane/methanol (95/5 by volume) mixture, 1-liter fractions were collected. Fractions 30 to 35 were combined and, finally, elution was carried out with a dichloromethane/methanol (90/10 by volume) mixture, 1-liter fractions were collected. Fractions 36 to 41 were combined, while the combination of fractions 30 to 41 was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 20 g of (3R,4R)-3-(2-hydroxyethyl)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine were obtained in the form of an oil.

reactant | (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)-3-vinylpiperidine | 52.6 g | O=C(CC[C@H]1[C@H](CN(CC1)C(=O)OC(C)(C)C)C=C)C1=CC=NC2=CC=C(C=C12)OC | C25H32N2O4
reactant | water | approximately 63 cm3 | O | H2O
reactant | sodium perborate | 47.5 g | B(=O)O[O-].[Na+]
reactant | ammonium chloride | 300 cm3 | [Cl-].[NH4+]
solvent | toluene | 500 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 500 cm3 | O1CCCC1 | C4H8O
product | (3R,4R)-3-(2-hydroxyethyl)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine | 20 g | OCC[C@H]1CN(CC[C@H]1CCC(C1=CC=NC2=CC=C(C=C12)OC)O)C(=O)OC(C)(C)C | C25H36N2O5
